US04196292
Step B: N-Amidino-3,5-diamino-6-trifluoromethylthio-2-pyrazinecarboxamide hydrate
Guanidine hydrochloride (3.34 g., 0.035 mole) is added to a solution of sodium methoxide (1.67 g., 0.032 mole) in methanol (20 ml.) with stirring at 25° C. After 15 minutes, methyl 3,5-diamino-6-trifluoromethylthio-2-pyrazinoate (1.85 g., 0.007 mole) is added, and the mixture is heated on a steam bath for 15 min. Crushed ice--H2O (20 ml.) is added to the reaction mixture to precipitate 390 mg. of N-amidino-3,5-diamino-6-trifluoromethylthio-2-pyrazinecarboxamide, m.p. 195° C.

reactant | Guanidine hydrochloride | 0.035 mole, 3.34 g | Cl.NC(=N)N
reactant | sodium methoxide | 0.032 mole, 1.67 g | C[O-].[Na+]
reactant | methyl 3,5-diamino-6-trifluoromethylthio-2-pyrazinoate | 0.007 mole, 1.85 g | NC=1C(=NC(=C(N1)N)SC(F)(F)F)C(=O)OC | C7H7F3N4O2S
reactant | H2O | 20 ml | O | H2O
solvent | methanol | 20 ml | CO | CH4O
product | N-Amidino-3,5-diamino-6-trifluoromethylthio-2-pyrazinecarboxamide hydrate | O.C(N)(=N)NC(=O)C1=NC(=C(N=C1N)N)SC(F)(F)F | InChI=1S/C7H8F3N7OS.H2O/c8-7(9,10)19-5-3(12)16-2(11)1(15-5)4(18)17-6(13)14;/h(H4,11,12,16)(H4,13,14,17,18);1H2
